US08071584B2
5-Bromo-3-[2-(1-methylethyl)-1,1-dioxidotetrahydro-2H-thiopyran-4-yl]-1H-indole-7-carboxylic acid
1-(1,1-dimethylethyl) 7-ethyl 5-bromo-3-[2-(1-methylethyl)-1,1-dioxidotetrahydro-2H-thiopyran-4-yl]-1H-indole-1,7-dicarboxylate (1.46 g, 2.69 mmol) was dissolved in methanol (12 mL) and then water (6.00 mL) was added and then 6 N aqueous NaOH (6.73 mL, 40.4 mmol was added and the mixture was heated in a microwave 30 mins at 80° C. The mixture was neutralized with 1 N aqueous HCl until pH=1 and a small amount of yellow solid precipitated which was set aside. The aqueous solution was extracted with ethyl acetate, the organic layers were combined, dried (MgSO4) and solvent was removed under vacuum to afford the title compound.

reactant | 1-(1,1-dimethylethyl) 7-ethyl 5-bromo-3-[2-(1-methylethyl)-1,1-dioxidotetrahydro-2H-thiopyran-4-yl]-1H-indole-1,7-dicarboxylate | 2.69 mmol, 1.46 g | BrC=1C=C2C(=CN(C2=C(C1)C(=O)OCC)C(=O)OC(C)(C)C)C1CC(S(CC1)(=O)=O)C(C)C | C24H32BrNO6S
reactant | water | 6.00 mL | O | H2O
reactant | NaOH | 6 N | [OH-].[Na+]
reactant | HCl | 1 N | Cl | ClH
solvent | methanol | 12 mL | CO | CH4O
product | 5-Bromo-3-[2-(1-methylethyl)-1,1-dioxidotetrahydro-2H-thiopyran-4-yl]-1H-indole-7-carboxylic acid | BrC=1C=C2C(=CNC2=C(C1)C(=O)O)C1CC(S(CC1)(=O)=O)C(C)C | C17H20BrNO4S
